US06048842
To a solution of 3-(5-benzo[b]furanyl)-2'-(β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylpropiophenone (10 g) in 2,4,6-collidine (100 ml) is added dropwise methyl chloroformate (10.31 g) at 0° C., and the mixture is stirred at 0° C. for 23 hours. The reaction mixture is poured into ice-10% hydrochloric acid (300 ml--300 ml), and the mixture is extracted with ethyl acetate (350 ml). The organic layer is washed with water, a saturated aqueous sodium hydrogen carbonate solution, and a saturated sodium chloride solution, dried, and concentrated under reduced pressure. The residue (11.96 g) is dissolved in tetrahydrofuran (200 ml), and thereto is added t-butyl amine (20 ml), and the mixture is stirred at room temperature for four hours. The reaction mixture is poured into ice-10% hydrochloric acid (150 ml--150 ml), and extracted with ethyl acetate (250 ml). The organic layer is washed with water, a saturated aqueous sodium hydrogen carbonate solution, and a saturated sodium chloride solution, dried, and concentrated under reduced pressure. The reside is recrystallized twice from water-diethyl ether-diisopropyl ether to give 3-(5-benzo[b]furanyl)-2'-(6-O-methoxycarbonyl-β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylpropiophenone (9.14 g).

reactant | 3-(5-benzo[b]furanyl)-2'-(β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylpropiophenone | 10 g | O1C2=C(C=C1)C=C(C=C2)CCC(=O)C2=C(C=C(C=C2O)C)O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO | C24H26O9
reactant | methyl chloroformate | 10.31 g | ClC(=O)OC | C2H3ClO2
solvent | 2,4,6-collidine | 100 ml | N1=C(C=C(C=C1C)C)C | C8H11N
product | 3-(5-benzo[b]furanyl)-2'-(6-O-methoxycarbonyl-β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylpropiophenone | 9.14 g | O1C2=C(C=C1)C=C(C=C2)CCC(=O)C2=C(C=C(C=C2O)C)O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)COC(=O)OC | C26H28O11
